US09340506B2
(5-Bromo-thiazol-2-yl)-carbamic acid tert-butyl ester (0.200 g, 0.71 mmol), tetrakis(triphenylphospine)palladium (0.042 g, 0.036 mmol), lithium chloride (0.91 g, 2.14 mmol), and tributyl (vinyl)stannate (0.68 g, 2.14 mmol) were taken in 8 mL of THF and 8 mL of DMF and reflux for 2 hrs. After completion of reaction THF was removed under reduced pressure on ratavapour and the residue was partioned between ethyl acetate (20 mL) and water (20 mL). The layers were separated. Aq. Layer was extracted with ethyl acetate (2×20 mL). The combined organic layer was washed with brine and dried over anhydrous sodium sulfate filtered and concentrated under reduced pressure to get the crude product which was purified by preparative TLC to get the pure product (5-Vinyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.137 g).

reactant | (5-Bromo-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.71 mmol, 0.200 g | C(C)(C)(C)OC(NC=1SC(=CN1)Br)=O | C8H11BrN2O2S
reactant | lithium chloride | 2.14 mmol, 0.91 g | [Cl-].[Li+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | (5-Vinyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.137 g | C(C)(C)(C)OC(NC=1SC(=CN1)C=C)=O | C10H14N2O2S
